US09403773B2
Diphenyl ether (15 ml) was added to ethyl ester of 4,4,4-trifluoro-3-(5-fluoro-2-propoxyphenylamino)buta-2-enoic acid (19.7 g, 59.0 mmol), and the mixture was stirred for 1.5 hours while heating under reflux. The reaction mixture was cooled to room temperature, n-hexane was added, and the precipitate was collected by filtration. The substance remaining on the filter was washed with n-hexane, and dried to thereby obtain 16.2 g of powdery white 5-fluoro-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one (yield: 94%).

reactant | Diphenyl ether | 15 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 4,4,4-trifluoro-3-(5-fluoro-2-propoxyphenylamino)buta-2-enoic acid | 59.0 mmol, 19.7 g | FC(C(=CC(=O)O)NC1=C(C=CC(=C1)F)OCCC)(F)F | C13H13F4NO3
solvent | n-hexane | CCCCCC | C6H14
product | 5-fluoro-8-propoxy-2-trifluoromethyl-1H-quinolin-4-one | 16.2 g, yield: 94% | FC1=C2C(C=C(NC2=C(C=C1)OCCC)C(F)(F)F)=O | C13H11F4NO2
